### PR TITLE
Partially merge master into rt

### PR DESCRIPTION
**Pull request by corlewis**
Significant changes merged in that are visible to rt proofs:
* refine: arch-split KHeap_R
* refine: unify SubMonad_R
* refine: arch-split ArchAcc_R
* spec+proof: pptrBase, haveSetTrigger, numSGIs
* spec+proof: maybe_handle_interrupt
* refine: arch-split CSpace_I
* refine: arch-split CSpace1_R
* refine: arch-split CSpace_R
* spec+proof: update for vcpu_flush
* ainvs: add new AInvsToplevel_AI to AInvs session
* refine: add IRQReserved to state relation
* refine: arch-split TcbAcc_R
* arm spec+proof: GICv3 now allows 32 bit targets
* refine: arch-split VSpace_R
* refine+crefine: make valid_arch_obj' stateless
* refine: arch-split Retype_R

### CODE REVIEW

**Comment by corlewis** [comment]
For reviewing purposes, the merge commit has been split into two, one with the merge conflicts left in and the second resolving them.

I'm not sure how helpful it will be in this case, a lot  of the conflicts were very large and difficult to resolve, but let me know if it makes reviewing any easier.

These two commits will need to be squashed before this PR is merged.

File: proof/refine/RISCV64/ArchInvsLemmas_H.thy [hunk 1]
```diff
@@ -27,6 +27,7 @@ lemma wordSizeCase_simp[simp]: "wordSizeCase a b = b"
 
 lemmas objBits_defs =
   tcbBlockSizeBits_def epSizeBits_def ntfnSizeBits_def cteSizeBits_def replySizeBits_def
+  minSchedContextBits_def
```
Comment (corlewis) [inline proof/refine/RISCV64/ArchInvsLemmas_H.thy:30]: I am unsure whether moving `minSchedContextBits_def` out of `bit_simps'` and into `objBits_defs` was a good idea. It feels like it's more consistent with the other definitions and it made some proofs simpler, but it also made others more complicated when they expected `minSchedContextBits` to not be unfolded.

Comment (corlewis) [reply proof/refine/RISCV64/ArchInvsLemmas_H.thy:30]: See https://github.com/seL4/l4v/pull/951/commits/faffd13ae978d437878db1e751b17e0d0451a169#diff-d8509b2fca55c1719ec4ad344c91ff883c66772f66f50932b3e28ec23f0de945R1749 as an example of this making a proof worse.

Comment (lsf37) [reply proof/refine/RISCV64/ArchInvsLemmas_H.thy:30]: I don't have strong feelings either way. Conceptually, it does make more sense to include in `objBits_defs` than in `bit_simps'` and I don't think the proof fixups are problematic. A mild preference for leaving it as you have it now.

File: proof/refine/RISCV64/ArchKHeap_R.thy [hunk 2]
```diff
@@ -380,4 +394,2062 @@ lemma non_hyp_hyp_refs_of'[simp]:
...
+  apply (clarsimp simp: update_sched_context_def get_sched_context_def bind_assoc)
+  apply (rule monadic_rewrite_bind_tail)
+   defer
+   apply (rule get_object_sp)
+  apply (case_tac obj;
+         fastforce simp: monadic_rewrite_pre_imp_eq set_object_def monadic_rewrite_def obj_at_def
+                         is_sc_obj_def)
+  done
+
+lemmas sc_inv_state_eq' = getObject_sc_inv[THEN use_valid[rotated], rotated
```
Comment (michaelmcinerney) [inline proof/refine/RISCV64/ArchKHeap_R.thy]: Maybe we don't want to fix this now, but this has the highly illegal comma on a new line

File: proof/crefine/RISCV64/Refine_C.thy [hunk 3]
```diff
@@ -88,35 +89,29 @@ lemma ucast_8_32_neq:
   by uint_arith (clarsimp simp: uint_up_ucast is_up)
 
 lemma checkInterrupt_ccorres:
-  "ccorres dc xfdc invs' UNIV []
-           (liftE (maybeHandleInterrupt inKernel)) (Call checkInterrupt_'proc)"
+  "ccorres dc xfdc (invs' and (\<lambda>s. weak_sch_act_wf (ksSchedulerAction s) s)) UNIV []
+           ((maybeHandleInterrupt inKernel)) (Call checkInterrupt_'proc)"
```
Comment (Xaphiosis) [inline proof/crefine/RISCV64/Refine_C.thy]: `(( ))` -> `( )`?

File: proof/refine/CSpace1_R.thy [hunk 4]
```diff
@@ -3061,7 +3053,7 @@ lemma setCTE_UntypedCap_corres:
   apply (rename_tac abs conc conc' abs')
 
   (* FIXME RT: replace this with whatever comes out of VER-1248. *)
```
Comment (Xaphiosis) [inline proof/refine/CSpace1_R.thy:3055]: BTW: is this FIXME still relevant?

File: proof/invariant-abstract/DetSchedAux_AI.thy [hunk 5]
```diff
@@ -208,7 +208,7 @@ lemma retype_region_etcb_at[wp]:
   apply (simp add: retype_region_def)
   apply wp
   apply (clarsimp simp add: pred_tcb_at_def obj_at_def simp del: fun_upd_apply)
-  apply (clarsimp simp: etcbs_of'_def etcb_at'_def etcb_of_def)
+  apply (clarsimp simp:  etcb_at'_def etcb_of_def pred_map_simps vs_heap_simps)
```
Comment (Xaphiosis) [inline proof/invariant-abstract/DetSchedAux_AI.thy]: now double space after `:`

File: proof/refine/RISCV64/ArchTcbAcc_R.thy [hunk 6]
```diff
@@ -1013,6 +1019,20 @@ lemma sbn_iflive'[wp]:
   apply auto
   done
 
+lemma tcbSchedNext_None_if_live_then_nonz_cap'[wp]:
+  "threadSet (tcbSchedNext_update (\<lambda>_. None)) tcbPtr \<lbrace>if_live_then_nonz_cap'\<rbrace>"
+  apply (wpsimp wp: threadSet_iflive'T)
+   apply (fastforce simp: update_tcb_cte_cases)
+  apply fastforce
+  done
```
Comment (Xaphiosis) [inline proof/refine/RISCV64/ArchTcbAcc_R.thy]: does this not work with only wpsimp like for `tcbInReleaseQueue_update_iflive'`? It should still work with one-lining these with `wpsimp wp: threadSet_iflive'T; fastforce simp: update_tcb_cte_cases`

Comment (michaelmcinerney) [reply proof/refine/RISCV64/ArchTcbAcc_R.thy]: Funnily enough, `if_live_then_nonz_cap'` is about to be unceremoniously ripped out of `rt`. It wouldn't be hard to do the same thing to `master`.

File: proof/refine/RISCV64/IpcCancel_R.thy [hunk 7]
```diff
@@ -2898,6 +2898,15 @@ lemma valid_pspace'_pspace_bounded'[elim!]:
   "valid_pspace' s \<Longrightarrow> pspace_bounded' s"
   by fastforce
 
+context Arch begin arch_global_naming
```
Comment (Xaphiosis) [inline proof/refine/RISCV64/IpcCancel_R.thy:2901]: no FIXME on this one?

File: proof/refine/RISCV64/IpcCancel_R.thy [hunk 8]
```diff
@@ -2898,6 +2898,15 @@ lemma valid_pspace'_pspace_bounded'[elim!]:
...
+
+lemma tcbSchedEnqueue_valid_pspace'[wp]:
+  "tcbSchedEnqueue tcbPtr \<lbrace>valid_pspace'\<rbrace>"
+  unfolding valid_pspace'_def
+  by wpsimp
+
+end
```
Comment (Xaphiosis) [inline proof/refine/RISCV64/IpcCancel_R.thy:2908]: I picked up the habit of commenting on which locale the `end`s are for. Here it's rather short, but something to consider.

File: proof/refine/RISCV64/ArchKHeap_R.thy (hunk 2 above)
Comment (corlewis) [reply proof/refine/RISCV64/ArchKHeap_R.thy]: Good spotting, fixed

File: proof/refine/CSpace1_R.thy (hunk 4 above)
Comment (corlewis) [reply proof/refine/CSpace1_R.thy:3055]: I think so, it's not related to arch-split or anything that has been changed in master. It's to do with the `extract_conjunct` these proofs use: https://sel4.atlassian.net/browse/VER-1248.

File: proof/refine/RISCV64/IpcCancel_R.thy (hunk 7 above)
Comment (corlewis) [reply proof/refine/RISCV64/IpcCancel_R.thy:2901]: This arch locale actually already existed on master, it must have been removed from rt at some point. In my mind that meant it didn't need an additional FIXME, it should be handled properly once the arch-split process reaches this file.
